US04329473
2-Phenyl-4-(3-pyridylmethyl)oxazolone. A mixture of 180 g of N-benzoyl glycine, 40 g of potassium bicarbonate and 400 ml of acetic anhydride was stirred until solution occurred. 3-Pyridylaldehyde (100 ml) was then added and the mixture stirred for 1 hr with maintenance of the temperature at 20°-25° C. by means of a cold water bath. The mixture was poured into 2 liters of hot water and the precipitate collected by filtration and dried to afford 2-phenyl-4-(3-pyridylmethylene)-2-oxazolin-5-one, mp 164.5° C. The material was hydrogenated in tetrahydrofuran solution over 20% palladium-on-carbon. The catalyst was removed by filtration and the solvent evaporated in vacuo to give the azlactone as a tan foam.

reactant | N-benzoyl glycine | 180 g | C(C1=CC=CC=C1)(=O)NCC(=O)O | C9H9NO3
reactant | potassium bicarbonate | 40 g | C([O-])(O)=O.[K+]
reactant | acetic anhydride | 400 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 2 liters | O | H2O
product | 2-phenyl-4-(3-pyridylmethylene)-2-oxazolin-5-one | C1(=CC=CC=C1)C=1OC(C(N1)=CC=1C=NC=CC1)=O | C15H10N2O2
